US04474754
600 Milligrams of Z-Leu-Gly-Phe-Leu-Gln-Arg(Tos)-Ser-Ser-OH was dissolved in 50 ml of methanol and 10 ml of 10%-acetic acid, then the mixture was subjected to catalytic reduction in the presence of 500 mg of palladium at a room temperature under an atmospheric pressure to obtain H-Leu-Gly-Phe-Leu-Gln-Arg(Tos)-Ser-Ser-OH.

reactant | Z-Leu-Gly-Phe-Leu-Gln-Arg(Tos)-Ser-Ser-OH | N([C@@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)O)C(=O)OCC1=CC=CC=C1 | C55H78N12O16S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | 500 mg | [Pd] | Pd
product | H-Leu-Gly-Phe-Leu-Gln-Arg(Tos)-Ser-Ser-OH | N[C@@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)O | C47H72N12O14S
